US05059689
43.4 g of 2,4-dichloro-6-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine are heated in an autoclave to 160° for 8 hours with 39.0 g of isopropylamine in 200 ml of xylene. After cooling to room temperature, the autoclave contents are washed three times, each with 100 ml of water, and the yellowish xylene solution is dried over sodium sulfate, stirred for 10 minutes with 5 g of Tonsil Optimum (bleaching earth), filtered and evaporated. The 2,4-bis-isopropylamino-6-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine obtained is a slightly yellowish resin which could not be crystallized.

reactant | 2,4-dichloro-6-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine | 43.4 g | ClC1=NC(=NC(=N1)Cl)N1C(CCCC1(C)C)(C)C | C12H18Cl2N4
reactant | isopropylamine | 39.0 g | C(C)(C)N | C3H9N
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,4-bis-isopropylamino-6-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine | C(C)(C)NC1=NC(=NC(=N1)NC(C)C)N1C(CCCC1(C)C)(C)C | C18H34N6
